US05948911
The reaction procedure as above wherein 3,4-methylenedioxy-benzylamine is reacted with 4-(4-chloro-6-propyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3,4-methylenedioxybenzylamino)-6-propyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester

reactant | 3,4-methylenedioxy-benzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 4-(4-chloro-6-propyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)CCC)Cl)=O | C17H15ClN2O2S
product | 4-[4-(3,4-methylenedioxybenzylamino)-6-propyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)CCC)NCC2=CC1=C(C=C2)OCO1)=O | C25H23N3O4S
